US08802697B2
Synthesis of ethyl 6-chloro-5-methyl-4-(methylamino)nicotinate
To a solution of ethyl 4,6-dichloro-5-methylnicotinate (2.6 g, 11.1 mmol) in acetonitrile (60 mL) was added dropwise 40% methylamine in water (689 mg, 22.2 mmol, 60 mL), and the mixture was stirred at 50° C. for 72 h. LCMS monitored the reaction was completed. The reaction mixture was concentrated and extracted with ethyl acetate (100 mL). The organic layer was separated, combined, washed with water and brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column (petroleum ether:ethyl acetate=2:1) to get the title compound (2.05 g, 81%) as a colorless oil. MS (ES+) C10H13ClN2O2 requires: 228, 230. found: 229, 231 [M+H]+.

reactant | ethyl 4,6-dichloro-5-methylnicotinate | 11.1 mmol, 2.6 g | ClC1=C(C(=NC=C1C(=O)OCC)Cl)C | C9H9Cl2NO2
reactant | methylamine | CN | CH5N
reactant | water | 22.2 mmol, 60 mL, 689 mg | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | ethyl 6-chloro-5-methyl-4-(methylamino)nicotinate | 2.05 g, 81% | ClC1=NC=C(C(=O)OCC)C(=C1C)NC | C10H13ClN2O2
